US06689779B2
Preparation of 2-[5-Methyl-(1,2,4)-oxadiazol-3-yl]-5-bromopyridine
In 250 ml of acetic anhydride was dissolved 8.6 g of 2-(imino-N-hydroxyaminomethyl)-5-bromopyridine and the solution was refluxed for one day. After completion of the reaction, the same post-treatment as in Preparation Example. 13 was conducted to give the title compound. 2.8 g.

reactant | 2-(imino-N-hydroxyaminomethyl)-5-bromopyridine | 8.6 g | N=C(C1=NC=C(C=C1)Br)NO | C6H6BrN3O
reactant | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[5-Methyl-(1,2,4)-oxadiazol-3-yl]-5-bromopyridine | CC1=NC(=NO1)C1=NC=C(C=C1)Br | C8H6BrN3O
